.SUBCKT BSP204 1 2 3
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 W=19m L=2u KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS
.SUBCKT BSP204A 1 2 3
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 W=19m L=2u KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS
.SUBCKT BSP205 1 2 3
Cgs  2 3 20.1E-12
Cgd1 2 4 57.1E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=7.6m L=2u
M2 4 2 1 3 MOST2 W=7.6m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m)
.MODEL MOST2 PMOS(VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m)
.MODEL Dbody D(CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245
+              TT=86.56n BV=60 IBV=10u)
.ENDS
.SUBCKT BSP206 1 2 3
Cgs  2 3 35.9E-12
Cgd1 2 4 95.1E-12
Cgd2 1 4 8E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.4 W=19m L=2u KP=10.61u RD=3.151 RS=20m)
.MODEL MOST2 PMOS(VTO=2.23 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=76.71p VJ=0.5918 M=0.3784 IS=116.4f N=1.013 RS=1.96
+              TT=92.33n BV=60 IBV=10u)
.ENDS
.SUBCKT BSP230 1 2 3
Cgs  2 3 41.3E-12
Cgd1 2 4 148.7E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=23e-3 L=2e-6
M2 4 2 1 3 MOST2 W=23e-3 L=2e-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3 VTO=-2.4 Rd=13.06)
.MODEL MOST2 PMOS(VTO=3.1 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3)
.MODEL Dbody D(Is=1.493E-14 N=0.9364 Rs=2 CJO=9.5E-11 VJ=0.9919 M=0.5697
+              TT=865.6E-9 BV=300 IBV=10E-6)
.ENDS
.SUBCKT BSP250 1 2 3
Cgs  2 3 216E-12
Cgd1 2 4 629E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.42 L=2E-6
M2 4 2 1 3 MOST2 W=.42 L=2E-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(Level=3 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3 Vto=-1.8 Rd=0.1735)
.MODEL MOST2 PMOS(Vto=3.92 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=6.159E-12 N=1.225 Rs=.9657 Ikf=13.37 Cjo=580.8E-12 M=454.9E-3
+              Vj=699.8E-3 Bv=30 Ibv=10E-6 Tt=173.1E-9)
.ENDS

.SUBCKT BSP304 1 2 3
Cgs  2 3 41.3E-12
Cgd1 2 4 148.7E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=23e-3 L=2e-6
M2 4 2 1 3 MOST2 W=23e-3 L=2e-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3 VTO=-2.4 Rd=13.06)
.MODEL MOST2 PMOS(VTO=3.1 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3)
.MODEL Dbody D(Is=1.493E-14 N=0.9364 Rs=2 CJO=9.5E-11 VJ=0.9919 M=0.5697
+              TT=865.6E-9 BV=300 IBV=10E-6)
.ENDS
.SUBCKT BSP304A 1 2 3
Cgs  2 3 41.3E-12
Cgd1 2 4 148.7E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=23e-3 L=2e-6
M2 4 2 1 3 MOST2 W=23e-3 L=2e-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3 VTO=-2.4 Rd=13.06)
.MODEL MOST2 PMOS(VTO=3.1 KP=10.31e-6 W=23e-3 L=2e-6 Rs=20e-3)
.MODEL Dbody D(Is=1.493E-14 N=0.9364 Rs=2 CJO=9.5E-11 VJ=0.9919 M=0.5697
+              TT=865.6E-9 BV=300 IBV=10E-6)
.ENDS
.SUBCKT BSS110 1 2 3
Cgs  2 3 20.6E-12
Cgd1 2 4 56.1E-12
Cgd2 1 4 3.5E-12
M1 1 2 3 3 MOST1 W=12m L=2u
M2 4 2 1 3 MOST2 W=12m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.7 W=12m L=2u KP=10.07u RD=3.952 RS=20m)
.MODEL MOST2 PMOS(VTO=3.25 W=12m L=2u KP=10.07u RS=20m)
.MODEL Dbody D(CJO=45.35p VJ=462.4m M=325.5m IS=442f N=1.051 RS=1.243
+              TT=105n BV=50 IBV=10u)
.ENDS
.SUBCKT BSS192 1 2 3
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 W=19m L=2u KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS
.SUBCKT BSS84 1 2 3
Cgs  2 3 20.6E-12
Cgd1 2 4 56.1E-12
Cgd2 1 4 3.5E-12
M1 1 2 3 3 MOST1 W=12m L=2u
M2 4 2 1 3 MOST2 W=12m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.7 W=12m L=2u KP=10.07u RD=3.952 RS=20m)
.MODEL MOST2 PMOS(VTO=3.25 W=12m L=2u KP=10.07u RS=20m)
.MODEL Dbody D(CJO=45.35p VJ=462.4m M=325.5m IS=442f N=1.051 RS=1.243
+              TT=105n BV=50 IBV=10u)
.ENDS
.SUBCKT BSS92 1 2 3
Cgs  2 3 32.3E-12
Cgd1 2 4 180E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-1.6 W=19m L=2u KP=10.61u RD=8.781 RS=20m)
.MODEL MOST2 PMOS(VTO=2.84 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=115.9p VJ=0.6634 M=0.5435 IS=880.8f N=1.078 RS=2.034
+              TT=346.2n BV=200 IBV=10u)
.ENDS
.SUBCKT BST100 1 2 3
Cgs  2 3 35.9E-12
Cgd1 2 4 95.1E-12
Cgd2 1 4 8E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.4 W=19m L=2u KP=10.61u RD=3.151 RS=20m)
.MODEL MOST2 PMOS(VTO=2.23 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=76.71p VJ=0.5918 M=0.3784 IS=116.4f N=1.013 RS=1.96
+              TT=92.33n BV=60 IBV=10u)
.ENDS
.SUBCKT BST110 1 2 3
Cgs  2 3 20.1E-12
Cgd1 2 4 57.1E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=7.6m L=2u
M2 4 2 1 3 MOST2 W=7.6m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m)
.MODEL MOST2 PMOS(VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m)
.MODEL Dbody D(CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245
+              TT=86.56n BV=60 IBV=10u)
.ENDS
.SUBCKT BST120 1 2 3
Cgs  2 3 35.9E-12
Cgd1 2 4 95.1E-12
Cgd2 1 4 8E-12
M1 1 2 3 3 MOST1 W=19m L=2u
M2 4 2 1 3 MOST2 W=19m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.4 W=19m L=2u KP=10.61u RD=3.151 RS=20m)
.MODEL MOST2 PMOS(VTO=2.23 W=19m L=2u KP=10.61u RS=20m)
.MODEL Dbody D(CJO=76.71p VJ=0.5918 M=0.3784 IS=116.4f N=1.013 RS=1.96
+              TT=92.33n BV=60 IBV=10u)
.ENDS
.SUBCKT BST122 1 2 3
Cgs  2 3 20.1E-12
Cgd1 2 4 57.1E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1 W=7.6m L=2u
M2 4 2 1 3 MOST2 W=7.6m L=2u
D1 1 3 Dbody
.MODEL MOST1 PMOS(LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m)
.MODEL MOST2 PMOS(VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m)
.MODEL Dbody D(CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245
+              TT=86.56n BV=60 IBV=10u)
.ENDS
.SUBCKT PHC21025P 1 2 3
Cgs  2 3 216E-12
Cgd1 2 4 629E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.42 L=2E-6
M2 4 2 1 3 MOST2 W=.42 L=2E-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(Level=3 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3 Vto=-1.8 Rd=0.1735)
.MODEL MOST2 PMOS(Vto=3.92 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=6.159E-12 N=1.225 Rs=.9657 Ikf=13.37 Cjo=580.8E-12 M=454.9E-3
+              Vj=699.8E-3 Bv=30 Ibv=10E-6 Tt=173.1E-9)
.ENDS

.SUBCKT PHN210 1 2 3
Cgs  2 3 190E-12
Cgd1 2 4 409E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.54 L=2E-6
M2 4 2 1 3 MOST2 W=.54 L=2E-6
D1 3 1 Dbody
.MODEL MOST1 NMOS(Level=3 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3 Vto=2.2 Rd=56E-3)
.MODEL MOST2 NMOS(Vto=-3.9 Kp=20.58E-6 W=.54 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=258E-15 N=1.002 Rs=.1773 Ikf=10.49 Cjo=623.5E-12 M=471.8E-3
+              Vj=705.5E-3 Bv=30 Ibv=10E-6 Tt=80E-9)
.ENDS
.SUBCKT PHP125 1 2 3
Cgs  2 3 216E-12
Cgd1 2 4 629E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.42 L=2E-6
M2 4 2 1 3 MOST2 W=.42 L=2E-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(Level=3 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3 Vto=-1.8 Rd=0.1735)
.MODEL MOST2 PMOS(Vto=3.92 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=6.159E-12 N=1.225 Rs=.9657 Ikf=13.37 Cjo=580.8E-12 M=454.9E-3
+              Vj=699.8E-3 Bv=30 Ibv=10E-6 Tt=173.1E-9)
.ENDS

.SUBCKT PHP225 1 2 3
Cgs  2 3 216E-12
Cgd1 2 4 629E-12
Cgd2 1 4 50E-12
M1 1 2 3 3 MOST1 W=.42 L=2E-6
M2 4 2 1 3 MOST2 W=.42 L=2E-6
D1 1 3 Dbody
.MODEL MOST1 PMOS(Level=3 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3 Vto=-1.8 Rd=0.1735)
.MODEL MOST2 PMOS(Vto=3.92 Kp=10.33E-6 W=.42 L=2E-6 Rs=20E-3)
.MODEL Dbody D(Is=6.159E-12 N=1.225 Rs=.9657 Ikf=13.37 Cjo=580.8E-12 M=454.9E-3
+              Vj=699.8E-3 Bv=30 Ibv=10E-6 Tt=173.1E-9)
.ENDS

