* COPYRIGHT OF ELANTEC, INC.
*
*This library of macromodels is being supplied to users as an  aid 
*to   circuit  designs.    While  it  reflects  reasonably   close 
*similarity  to the actual device in terms of performance,  it  is 
*not  suggested  as a replacement for  breadboarding.   Simulation 
*should be used as a forerunner or a supplement to traditional lab 
*testing.
*
*Users  should very carefully note the following factors regarding 
*these models:
*
*Model performance in general will reflect typical baseline  specs 
*for a given device, and certain aspects of performance may not be 
*modeled  fully  to  keep  the model as simple  as  possible  thus 
*minimizing  computer running time.  For example,  PSRR  and  CMRR 
*effects,  parametric variation with temperature,  operation under 
*output short circuit conditions,  and input noise sources are not 
*included in the models.
*
*While  reasonable  care has been taken in their  preparation,  we 
*cannot  be  responsible for correct application on  any  and  all 
*computer  systems.  Model  users are hereby notified  that  these 
*models  are  supplied  "as  is",   with  no  direct  or   implied 
*responsibility on the part of Elantec,  Inc.  for their operation 
*within  a  customer circuit or  system.   Further,  Elantec  Inc. 
*reserves the right to change these models without prior notice.
* 
*In all cases, the current data sheet information for a given real 
*device  is  your final design guideline,  and is the only  actual 
*performance guarantee.   For further technical information, refer 
*to individual device data sheets.
*
*The  Elantec  Engineering staff is in the  process  of  improving 
*these  models,   and  we  welcome  your  comments  and  feedback. 
*Inquiries should be made to:
*
*                  Applications Engineering Manager
*                  Elantec, Inc.
*                  1996 Tarob Ct. 
*                  Milpitas, CA 95035
*
*Voice Telephone:  (800) 333-6314, ext. 311
*
*FAX: (408) 945-9305   
*
*TELEX: 910-997-0649            
*EP2015 Model
*
* Connections     q1c 
*                  |  q1b 
*                  |   |  q1e 
*                  |   |   |  q2c 
*                  |   |   |   |  q2b 
*                  |   |   |   |   |  q2e 
*                  |   |   |   |   |   |  q3c 
*                  |   |   |   |   |   |   |  q3b 
*                  |   |   |   |   |   |   |   |  q3e 
*                  |   |   |   |   |   |   |   |   |  q4c 
*                  |   |   |   |   |   |   |   |   |   |  q4b 
*                  |   |   |   |   |   |   |   |   |   |   |  q4e
*                  |   |   |   |   |   |   |   |   |   |   |   |
.subckt EP2015/EL  1   2   3   7   6   5   8   9   10  14  13  12 
*
* Models 
*
.model ep2015 pnp (is=8e-15 bf=300 va=47 ikf=30mA xtb=1.3 br=4.5 tf=0.3nS 
+tr=280nS rb=230 rc=170 ise=1e-15 ne=1.24 ccs=2pF cjc=3.7pF pc=0.5 
+mc=0.45 cje=5.4pF pe=0.6 me=0.33 ptf=15)
* 
* Transistors 
*
q1  1   2   3 ep2015
q2  7   6   5 ep2015
q3  8   9  10 ep2015
q4 14  13  12 ep2015
* 
.ends
*EN2016 Model
*
* Connections     q1c 
*                  |  q1b 
*                  |   |  q1e 
*                  |   |   |  q2c 
*                  |   |   |   |  q2b 
*                  |   |   |   |   |  q2e 
*                  |   |   |   |   |   |  q3c 
*                  |   |   |   |   |   |   |  q3b 
*                  |   |   |   |   |   |   |   |  q3e 
*                  |   |   |   |   |   |   |   |   |  q4c 
*                  |   |   |   |   |   |   |   |   |   |  q4b 
*                  |   |   |   |   |   |   |   |   |   |   |  q4e
*                  |   |   |   |   |   |   |   |   |   |   |   |
.subckt EN2016/EL  1   2   3   7   6   5   8   9   10  14  13  12 
*
* Models 
*
.model en2016 npn (is=4e-15 bf=250 va=80 ikf=120mA xtb=1.1 br=10 tf=0.35nS 
+tr=80nS rb=200 rc=150 ise=3e-14 ne=2 ccs=0.7pF cjc=2.4pF xcjc=0.3 pc=0.32
+mc=0.19 cje=6pF pe=0.63 me=0.30 ptf=15)
* 
* Transistors 
*
q1  1   2   3 en2016
q2  7   6   5 en2016
q3  8   9  10 en2016
q4 14  13  12 en2016
* 
.ends
**** EL7661 spice macro model ****
*             a-input
*             |   b-input
*             |   |   a lo-side output
*             |   |   |   b lo-side output
*             |   |   |   |   a hi-side output
*             |   |   |   |   |   b hi-side output
*             |   |   |   |   |   |   a hi-side neg supply
*             |   |   |   |   |   |   |   b hi-side neg supply
*             |   |   |   |   |   |   |   |   lo-side neg supply 
*             |   |   |   |   |   |   |   |   |   a hi-side pos supply
*             |   |   |   |   |   |   |   |   |   |    b hi-side pos supply
*             |   |   |   |   |   |   |   |   |   |    |    lo-side pos supply
*             |   |   |   |   |   |   |   |   |   |    |    |
.subckt M7661 ina inb alo blo ahi bhi lxa lxb vss vhia vhib vdd
**** top level subcircuit calls ****
xdela ina outa vss delay
xdelb inb outb vss delay
xalo alo outa vdd vss vss outstg
xblo blo outb vdd vss vss outstg
xahi ahi outa vhia lxa vss outstg
xbhi bhi outb vhib lxb vss outstg
.ends M7661
**** put in value of rset resistor here ****
.param rset=50e3
**** comparator subcircuit **** 
.subckt comp10 out inp inm vss
e1 out vss table {(v(inp)-v(inm))*5000} (0,0,15,15)
rout out vss 10meg
rinp inp vss 10meg
rinm inm vss 10meg
.ends comp10
**** input, delay, and level shift subcircuit ****
.subckt delay vin compout vss
vinref vinref vss 1.8    
x1 n1 vin vinref vss comp10
rslow n1 n5 {rset}
rnom n5 n2 25k
cdelay n2 vss 7.5p
ddelay n4 n1 modd
rfast n4 n2 110k
rdiv1 vddint n3 1k
rdiv2 n3 vss 1k
x2 compout n3 n2 vss comp10
vddint vddint vss 15
.model modd d is=1e-7
.ends delay
**** 5 ohm output stage subcircuit ****
.subckt outstg out gate vhi lx vss
sp vhi out gate vss spmod
sn out lx gate vss snmod
.model spmod vswitch ron=5 roff=2meg von=2.5 voff=4.5
.model snmod vswitch ron=5 roff=2meg von=7.5 voff=5.5
.ends outstg


